US04469703
Preparation of 1-(4-nitrophenyl)-2-nitro-1,3-dipropionylpropane
3.0 g 1-(4-nitrophenyl)-2-nitro-1,3-propanediol are suspended in 10 ml of propionic anhydride. 0.05 ml of concentrated sulfuric acid are added to the mixture, whereupon the solid dissolves immediately. The resulting solution is allowed to stand at 20° C. for 12 hours. The separated crystals are filtered off, washed with petroleum ether and recrystallized from isopropanol. 1.5 g (42.4%) of the title compound are obtained; m.p.: 61.5°-65.6° C.

reactant | 1-(4-nitrophenyl)-2-nitro-1,3-propanediol | 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CO)[N+](=O)[O-])O | C9H10N2O6
reactant | sulfuric acid | 0.05 ml | S(O)(O)(=O)=O | H2O4S
reactant | propionic anhydride | 10 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 1-(4-nitrophenyl)-2-nitro-1,3-dipropionylpropane | 1.5 g, 42.4% | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CC(CC)=O)[N+](=O)[O-])C(CC)=O | C15H18N2O6
